US05231179
To a solution of 4,4,5,5-tetramethylimidazolidin-2-one (100 mg; 0.70 mmol) in dry tetrahydrofuran (5 ml), a 1.57 N solution of n-butyl lithium in hexane (0.49 ml; 0.77 mmol) was added at 0° C. After stirring at the same temperature for 5 minutes, a solution of methyl iodide (109 mg; 0.77 mmol) in tetrahydrofuran (1 ml) was added at 0° C., followed by stirring at room temperature for 10 minutes. To the reaction mixture, a saturated aqueous solution of potassium dihydrogen phosphate was added to decompose the excess reaction agent, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give an oily residue, which was purified by thin layer chromatography (chloroform:acetone=1:1) to give 1,4,4,5,5-pentamethylimidazolidin-2-one as a colorless solid.

reactant | 4,4,5,5-tetramethylimidazolidin-2-one | 0.70 mmol, 100 mg | CC1(NC(NC1(C)C)=O)C | C7H14N2O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.77 mmol, 0.49 ml | CCCCCC | C6H14
reactant | methyl iodide | 0.77 mmol, 109 mg | CI | CH3I
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1,4,4,5,5-pentamethylimidazolidin-2-one | CN1C(NC(C1(C)C)(C)C)=O | C8H16N2O
